datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[H:7][O:15],-4.72792
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[N:7]([H:8])[H:9]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6][N:7]([H:8])[H:9],-4.819968
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6])([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:7])([H:16])[H:17])([H:8])[H:9],90.4581
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:27][O:28][H:29],62.395992
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][H:10],4.6024
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[H:6][H:7]>>[C:0](=[C:1]([S:2][H:5])[H:7])([H:3])[H:4].[H:6],21.3384
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[C:28](=[O:29])[H:30]>>[C-:28]#[O+:29].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:12])[H:30])([H:9])([H:10])[H:11],0.0
[C:0]([C:1]=[C:2]([O:3][H:8])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([O:3])[H:7])[H:8])([H:4])([H:5])[H:6],97.227792
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]1([C:6]([C:7]([H:21])([H:22])[H:23])[C:8](=[C:9]([H:25])[H:26])[H:24])[H:20],24.2672
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13])[H:6],20.669
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1][H:5])([H:3])[H:4].[O:2]([H:6])[H:7],120.285
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:20][O:35][H:36],-5.819944
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7]([C:8]([H:22])([H:23])[H:24])=[C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([C:8]([H:22])([H:23])[H:24])[C:9]1([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:12],61.6722
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:14])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],125.9384
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],43.5136
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[H:13])[H:8])[H:7],10.5437
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:11])([H:12])[H:13].[O:21][H:22]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:12])[H:13].[H:11][O:21][H:22],3.65837
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])=[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([H:9])([H:10])[H:11].[O:7][O:8][H:19],64.4336
[S:0]([H:1])[H:2].[S:3][S:4][H:5]>>[H:1].[S:0]([H:2])[S:3][S:4][H:5],157.318
